US08557983B2
3-((dimethylamino)methyl)phenol
3-Hydroxybenzaldehyde (1.0 g), 2M dimethylamine in THF (5 mL), and sodium triacetoxyborohydride (2 g) in CH2Cl2 (10 mL) were stirred for 24 hours. The mixture was treated with methanol and chromatographed on silica gel with 2-25% ethyl acetate/hexanes.

reactant | 3-Hydroxybenzaldehyde | 1.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-((dimethylamino)methyl)phenol | CN(C)CC=1C=C(C=CC1)O | C9H13NO
